US05304556
(1) Preparation of 5-[N-(4-chlorophenyl)-N-phenylamino]-2-(3-pyridylmethyl)-1H-isoindole-1,3 (2H)-dione (Compound No. 66 in Table)
A mixture of 85 mg of 5-[N-(4-chlorophenyl) amino]-2-(3-pyridylmethyl)-1H-isoindole-1,3 (2H)-dione, 71 mg of iodobenzene, 30 mg of copper dust, 12 mg of 18-crown-6 (1,4,7,10,13,16-hexaoxacyclooctadecane), 128 mg of potassium carbonate and 2 ml of 1,2-dichlorobenzene was refluxed under heating for 7 hours. After finishing the reaction, the insoluble material was filtered off, and the filtrate was concentrated in vacuo. The resultant residue was chromatographed on a column of silica gel, eluting with chloroform and methanol (100:1) to give 96 mg of the titled compound.

reactant | 5-[N-(4-chlorophenyl) amino]-2-(3-pyridylmethyl)-1H-isoindole-1,3 (2H)-dione | 85 mg | ClC1=CC=C(C=C1)NC=1C=C2C(N(C(C2=CC1)=O)CC=1C=NC=CC1)=O | C20H14ClN3O2
reactant | iodobenzene | 71 mg | IC1=CC=CC=C1 | C6H5I
reactant | 18-crown-6 | 12 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium carbonate | 128 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 30 mg | [Cu] | Cu
solvent | 1,2-dichlorobenzene | 2 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 5-[N-(4-chlorophenyl)-N-phenylamino]-2-(3-pyridylmethyl)-1H-isoindole-1,3 (2H)-dione | 96 mg | ClC1=CC=C(C=C1)N(C1=CC=CC=C1)C=1C=C2C(N(C(C2=CC1)=O)CC=1C=NC=CC1)=O | C26H18ClN3O2
